US08293911B2
Step D: N-[4-(3,4-Dihydro-1H-isoquinolin-2-yl)-2,6-dimethoxy-phenyl]-3,3-dimethyl-butanamide
Toluene (6 mL) was degassed with nitrogen for 15 min in a 10 mL of microwave tube, then N-(4-bromo-2,6-dimethoxy phenyl)-3,3-dimethyl butanamide (200 mg, 0.6 mmol) and 1,2,3,4-tetrahydroisoquinoline (96 mg, 0.72 mmol) was added, followed by potassium tert-butoxide (101 mg, 0.9 mmol), bis(dibenzylidene acetone)palladium (17 mg, 0.03 mmol), and 2-dicyclohexyphosphino-2-(N,N-dimethylamino)biphenyl (24 mg, 0.06 mmol). The reaction tube was sealed and reacted in microwave at 100° C. for 2 hours. The reaction mixture was purified by silica gel column (ISCO, hexane/EtOAc, 0-40%, 40 min) to give pure compound as a white solid. 1H-NMR (DMSO-d6, 400 MHz): δ 8.36 (brs, 1H, exchangeable with D2O), 7.20 (m, 4H), 6.25 (s, 2H), 4.41 (s, 2H), 3.72 (s, 6H), 3.55 (t, J=6.0 Hz, 2H), 2.95 (t, J=6.0 Hz, 2H), 2.07 (s, 2H), 1.03 (s, 9H). MS: 383 (M+1).

reactant | N-(4-bromo-2,6-dimethoxy phenyl)-3,3-dimethyl butanamide | 0.6 mmol, 200 mg | BrC1=CC(=C(C(=C1)OC)NC(CC(C)(C)C)=O)OC | C14H20BrNO3
reactant | 1,2,3,4-tetrahydroisoquinoline | 0.72 mmol, 96 mg | C1NCCC2=CC=CC=C12 | C9H11N
reactant | potassium tert-butoxide | 0.9 mmol, 101 mg | CC(C)([O-])C.[K+]
catalyst | bis(dibenzylidene acetone)palladium | 0.03 mmol, 17 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | N-[4-(3,4-Dihydro-1H-isoquinolin-2-yl)-2,6-dimethoxy-phenyl]-3,3-dimethyl-butanamide | C1N(CCC2=CC=CC=C12)C1=CC(=C(C(=C1)OC)NC(CC(C)(C)C)=O)OC | C23H30N2O3
